US04131686
3 g of 2-methoxyacetophenone are dissolved in 15 ml of dioxane, and a solution of 3.3 g of selenium dioxide in 1.5 ml of water is added thereto. The solution is refluxed for 15 hours. After the reaction, insoluble materials are removed by filtration, and the filtrate is concentrated. The oily residue thus obtained is dissolved in ethyl acetate. The ethyl acetate solution is washed with water and then with an aqueous sodium bicarbonate solution and water. Then, said solution is dried and evaporated to remove solvent. 3.1 g of 2-methoxyphenylglyoxal hydrate are obtained as a crude oil.

reactant | 2-methoxyacetophenone | 3 g | COCC(=O)C1=CC=CC=C1 | C9H10O2
reactant | selenium dioxide | 3.3 g | [Se](=O)=O | O2Se
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methoxyphenylglyoxal hydrate | 3.1 g | O.COC1=C(C=CC=C1)C(=O)C=O | InChI=1S/C9H8O3.H2O/c1-12-9-5-3-2-4-7(9)8(11)6-10;/h2-6H,1H3;1H2
